US04367234
5-(2-Methoxy-6-nitrophenyl)oxazolidine-2,4-dione
By the procedure of Example 27, but using 3 rather than 3.2 equivalents of triethylamine, ethyl 1-hydroxy-1-(2-methoxy-6-nitrophenyl)methanecarboximidate hydrochloride (12 g., 0.041 moles) in 400 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(2-methoxy-6-nitrophenyl)oxazolidine-2,4-dione (8.8 g., 86%; m.p. 181°-183° C.; m/e 252).

reactant | triethylamine | 3.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-hydroxy-1-(2-methoxy-6-nitrophenyl)methanecarboximidate hydrochloride | 0.041 moles, 12 g | Cl.OC(C(OCC)=N)C1=C(C=CC=C1[N+](=O)[O-])OC
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Methoxy-6-nitrophenyl)oxazolidine-2,4-dione | COC1=C(C(=CC=C1)[N+](=O)[O-])C1C(NC(O1)=O)=O | C10H8N2O6
